US08957093B2
Step 2: (S)-4′-((5-((1-(benzo[d][1,3]dioxol-4-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using (S)-1-(benzo[d][1,3]dioxol-4-yl)ethanamine and 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 547 [M+H]+.

reactant | (S)-1-(benzo[d][1,3]dioxol-4-yl)ethanamine | O1COC2=C1C=CC=C2[C@H](C)N | C9H11NO2
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (S)-4′-((5-((1-(benzo[d][1,3]dioxol-4-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | O1COC2=C1C=CC=C2[C@H](C)NC(=O)C=2C=C1C(=C(N(C1=CC2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C)C | C34H30N2O5
